US08053447B2
To a stirred solution of N-adamantan-2-yl-4-hydroxy-benzamide (4 g, 14.74 mmol) in dry THF (100 mL) and DMF (75 mL) was added triphenyl phosphine (5.8 g, 22.11 mmol) and 4-(t-butyl-diphenyl-silanyloxy)-cyclohexanol (6.27 g, 17.69 mmol). The reaction mixture was cooled to 0° C. and DEAD (3.48 mL, 22.11 mmol) was added dropwise from an addition funnel over a period of 30 min. The reaction was gradually brought to room temperature and stirring continued for 16 hrs. The solvent was removed under vacuum and ether (100 mL) was added and cooled to 0° C. The solid formed was filtered off and the clear filtrate concentrated and purified by column chromatography using DCM as solvent to give 4.73 g (53%) of N-adamantan-2-yl-4-[4-(t-butyl-diphenyl-silanyloxy)-cyclohexyloxy]-benzamide as an oil.

reactant | N-adamantan-2-yl-4-hydroxy-benzamide | 14.74 mmol, 4 g | C12C(C3CC(CC(C1)C3)C2)NC(C2=CC=C(C=C2)O)=O | C17H21NO2
reactant | triphenyl phosphine | 22.11 mmol, 5.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(t-butyl-diphenyl-silanyloxy)-cyclohexanol | 17.69 mmol, 6.27 g | C(C)(C)(C)[Si](OC1CCC(CC1)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H30O2Si
reactant | DEAD | 22.11 mmol, 3.48 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-adamantan-2-yl-4-[4-(t-butyl-diphenyl-silanyloxy)-cyclohexyloxy]-benzamide | 4.73 g, 53% | C12C(C3CC(CC(C1)C3)C2)NC(C2=CC=C(C=C2)OC2CCC(CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=O | C39H49NO3Si
